US07342014B2
Ethyl 2-(4-chloroanilino)-2-oxoacetate
Triethylamine (1.52 ml) and ethyl chlorooxoacetate (1.11 ml) were successively added to a solution of 4-chloroaniline (1.16 g) in methylene chloride (26 ml), and the mixture was stirred at room temperature for 14 hours. After a saturated aqueous solution of sodium hydrogencarbonate was added to the reaction mixture to conduct liquid separation, the resultant organic layer was successively washed with a 10% aqueous solution of citric acid and saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. After the solvent was concentrated under reduced pressure, hexane was added to the residue to deposit crystals, and the crystals were collected by filtration and dried to obtain the title compound (1.89 g).

reactant | Triethylamine | 1.52 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorooxoacetate | 1.11 ml | ClC(C(=O)OCC)=O | C4H5ClO3
reactant | 4-chloroaniline | 1.16 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 26 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 2-(4-chloroanilino)-2-oxoacetate | 1.89 g | ClC1=CC=C(NC(C(=O)OCC)=O)C=C1 | C10H10ClNO3
